US05292760
1-(3-Methyl-2-thienyl)-2-(2-nitrophenyl)ethanone oxime
A mixture of 22.0 g of 1-(3-methyl-2-thienyl)-2-(2-nitrophenyl)ethanone in 210 ml of 95% ethanol, 11.7 g of hydroxylamine hydrochloride in 28 ml water, and 25.04 g of sodium acetate trihydrate in 28 ml water was refluxed overnight. The mixture was allowed to cool. The precipitate was collected and crystallized from 95% ethanol to give 17.85 g of product, mp 105°-100° C.

reactant | 1-(3-methyl-2-thienyl)-2-(2-nitrophenyl)ethanone | 22.0 g | CC1=C(SC=C1)C(CC1=C(C=CC=C1)[N+](=O)[O-])=O | C13H11NO3S
reactant | hydroxylamine hydrochloride | 11.7 g | Cl.NO
reactant | sodium acetate trihydrate | 25.04 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | ethanol | 210 ml | C(C)O | C2H6O
solvent | water | 28 ml | O | H2O
solvent | water | 28 ml | O | H2O
product | 1-(3-Methyl-2-thienyl)-2-(2-nitrophenyl)ethanone oxime | 17.85 g | CC1=C(SC=C1)C(CC1=C(C=CC=C1)[N+](=O)[O-])=NO | C13H12N2O3S
